US04668831
To 30 ml of acetone were added 2.04 g of N-(3-chlorophenyl)-N-methylcarbamoyl chloride, 1.84 g of 3-tert-butyl-4-chlorophenol and 1.6 g of anhydrous potassium carbonate, and the mixture was refluxed with heating for 48 hours. The reaction mixture was cooled down to room temperature and thereafter was poured into cold water. The product was extracted with benzene. The benzene solution was washed with water and a saturated aqueous solution of sodium chloride in this order, and was dried over anhydrous magnesium sulfate. Thereafter, benzene was distilled off. The residue was purified through a column chromatography (employing silica gel as carrier and benzen as developing solvent), and further recrystallized from hexane to give 3.2 g of 3-tert-butyl-4-chlorophenyl N-(3-chlorophenyl)-N-methylcarbamate, having melting point of 65°-67° C.

reactant | acetone | 30 ml | CC(=O)C | C3H6O
reactant | N-(3-chlorophenyl)-N-methylcarbamoyl chloride | 2.04 g | ClC=1C=C(C=CC1)N(C(=O)Cl)C | C8H7Cl2NO
reactant | 3-tert-butyl-4-chlorophenol | 1.84 g | C(C)(C)(C)C=1C=C(C=CC1Cl)O | C10H13ClO
reactant | potassium carbonate | 1.6 g | C([O-])([O-])=O.[K+].[K+]
solvent | water | O | H2O
product | 3-tert-butyl-4-chlorophenyl N-(3-chlorophenyl)-N-methylcarbamate | 3.2 g | ClC=1C=C(C=CC1)N(C(OC1=CC(=C(C=C1)Cl)C(C)(C)C)=O)C | C18H19Cl2NO2
